US09403801B2
1-(9-((5-chloro-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-3-azaspiro[5.5]undecan-3-yl)-2,2,2-trifluoroethanone
To a suspension of 5-chloro-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(3-azaspiro[5.5]undecan-9-yl)pyrimidine-2,4-diamine (0.30 g, 0.80 mmol) in anhydrous DCM (10.0 mL) were added N,N-diethylethanamine (0.25 mL, 1.80 mmol) and (2,2,2-trifluoroacetyl)2,2,2-trifluoroacetate (0.19 g, 0.89 mmol). The mixture was stirred at room temperature overnight, then concentrated in vacuo. The residue was purified by silica gel column chromatography (DCM/MeOH (v/v)=100/1 to 50/1) to afford the title compound as a white solid (0.27 g, 71%).

reactant | 5-chloro-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(3-azaspiro[5.5]undecan-9-yl)pyrimidine-2,4-diamine | 0.80 mmol, 0.30 g | ClC=1C(=NC(=NC1)NC=1C=NN(C1)C)NC1CCC2(CCNCC2)CC1 | C18H26ClN7
reactant | N,N-diethylethanamine | 1.80 mmol, 0.25 mL | C(C)N(CC)CC | C6H15N
reactant | (2,2,2-trifluoroacetyl)2,2,2-trifluoroacetate | 0.89 mmol, 0.19 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | DCM | 10.0 mL | C(Cl)Cl | CH2Cl2
product | 1-(9-((5-chloro-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-3-azaspiro[5.5]undecan-3-yl)-2,2,2-trifluoroethanone | 0.27 g, 71% | ClC=1C(=NC(=NC1)NC=1C=NN(C1)C)NC1CCC2(CCN(CC2)C(C(F)(F)F)=O)CC1 | C20H25ClF3N7O
